US05272163
N-[4-(Phenylsulfonyl)phenyl]-3,3,-difluoro-2-hydroxy-2-methylpropanamide
A solution of 2-hydroxy-2-difluoromethylpropionic acid (0.9 g, 6.4 mmol) in dry dimethylacetamide (15 ml) was stirred under a nitrogen atmosphere at -10° C. Thionyl chloride (0.76 g, 6.4 mmol) was added and the resulting mixture was allowed to stir at -10° C. for 1 hour. 4-Phenylsulfonylaniline (1.0 g, 4.3 mmol) was then added and the reaction mixture was stirred at -10° C. for a further 15 mins. The solution was then allowed to warm to room temperature where it was stirred overnight. The reaction mixture was poured into ammonium chloride solution and extracted with ethyl acetate. The combined ethyl acetate fractions were washed with water and brine. After drying (Na2SO4) and decolorization (Charcoal) the solution was evaporated in vacuo. A foam was obtained which was triturated with toluene and crystallized from ethyl acetate/hexane to give the title tertiary carbinol (0.72 g, 47%) as white crystals; mp=168°-169° C. 1H--NMR (300 MHz, d6 --DMSO): 1.41 (s, 3H, CH3), 6.13 (t, J=54.9 Hz, 1H, CHF2), 6.76 (s, 1H, OH), 7.58-7.68 (m, 3H, ArH), 7.89-8.01 (m, 6H, ArH), 10.27 (s, 1H, NH). MS (CI, CH4): 356(M+1, 100).

reactant | 2-hydroxy-2-difluoromethylpropionic acid | 6.4 mmol, 0.9 g | OC(C(=O)O)(C)C(F)F | C4H6F2O3
reactant | Thionyl chloride | 6.4 mmol, 0.76 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-Phenylsulfonylaniline | 4.3 mmol, 1.0 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(N)C=C1 | C12H11NO2S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | CH4 | C | CH4
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
product | N-[4-(Phenylsulfonyl)phenyl]-3,3,-difluoro-2-hydroxy-2-methylpropanamide | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)NC(C(C(F)F)(C)O)=O | C16H15F2NO4S
